Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
several weeks of muscle twitching, intermittent chest pressure, 
and shortness of breath
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
 
History of Present Illness:
___ with no significant PMH presents to the ED for ongoing chest
tightness. 

On ___, the patient reports left sided numbness in her
thigh that brought her to the emergency room but was discharged
due to symptoms likely to anxiety. On ___, the symptoms
spread to involve her left arm and left leg, at which time she
went back to the ED and had an MRI showing an enhancing pontine
lesion. She was discharged without any treatment with ___
for LP and MRI spine. The patient also reports these 
intermittent
episodes of "chest spasms" and chest heaviness. She is unsure if
it feels like palpitations. While at the ED on ___, she had an
episode where her HR went to the 140s when she was having the
chest symptoms that eventually resolved on their own. She was 
not
given any medications, but she does state that she her HR was in
the 100-110s the entire time. She also reports sudden limb
jerking, for which her neurologist prescribed her baclofen and
has relieved the symptoms. On ___, she reports having one day 
of
replacing similar words for another such as "sun" for "moon", 
but
denies slurred speech. She was supposed to ___ with her
neurologist in ___ in ___, however her aunt works here 
at
___ and made her an appointment with Dr. ___ in ___ clinic for
___. Due concerns of ongoing symptoms they brought her here to
the ED. 

She reports one episode of transient horizontal double vision
that lasted 3 seconds. She had an episode ___ years ago of left 
arm
numbness from her elbow, down the medial side of her arm and
extension into the her last two digits. She was seen at the ED
and diagnosed with ulnar neuropathy after CT and EMG testing.

She has chronic headaches, but says they are more frequent
lately. She notes a few episodes of light-headedness, but no
vertigo. She denies blurry vision but said it is "hard to
concentrate". She also reports left hand clumsiness 
occasionally,
but says "that hand was never dominant". She denies any 
weakness,
gait difficulties, bowel or bladder incontinence. She denies any
recent illness, viral or flu-like symptoms. 

 
Past Medical History:
ADD
 
Social History:
___
Family History:
No history of autoimmune disorders
 
Physical Exam:
VS: Temp 97.7F PO, BP 111/75, HR 63, RR 18, SpO2 98 on RA
General: Awake, cooperative, sitting up in bed
HEENT: NC/AT. No scleral icterus noted. MMM
Cardiac: Warm and well perfused. 
Pulmonary: no increased WOB on RA
Abdomen: Soft, ND.  
Extremities: No cyanosis, clubbing, or edema bilaterally.
Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive; Language is fluent with intact
repetition and comprehension. Normal prosody. There are no
paraphasic errors. Speech is not dysarthric. Able to follow both
midline and appendicular commands.

Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm and brisk. VFF to confrontation.
 III, IV, VI: EOMI without nystagmus. Normal saccades.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing grossly intact to speech.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline and equal strength 
bilaterally.

-Motor: Normal bulk, tone throughout. 
   Delt Bic Tri WrE FFl FE IP Quad Ham TA ___ 
 L  5    ___   ___   5    5  5     5     5   5
 R  5    ___   ___   5    5  5     5     5   5

-Sensory: No deficits to light touch or temperature throughout

-DTRs:
   Bi Tri ___ Pat Ach Supra-pat Cross Ab 
 L  2  2    2    3   1      +       -      
 R  2  2    2    3   1      +       -     
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF. 

-Gait: Good initiation. Narrow-based, normal stride.
 
Pertinent Results:
___ 02:15PM BLOOD WBC-8.5 RBC-4.41 Hgb-13.6 Hct-41.9 MCV-95 
MCH-30.8 MCHC-32.5 RDW-12.8 RDWSD-44.2 Plt ___
___ 02:15PM BLOOD Neuts-57.6 ___ Monos-5.9 Eos-2.1 
Baso-0.7 Im ___ AbsNeut-4.86 AbsLymp-2.83 AbsMono-0.50 
AbsEos-0.18 AbsBaso-0.06
___ 03:07PM BLOOD ___ PTT-28.2 ___
___ 03:07PM BLOOD D-Dimer-296
___ 02:15PM BLOOD Glucose-103* UreaN-11 Creat-0.7 Na-143 
K-3.9 Cl-104 HCO3-25 AnGap-14
___ 02:15PM BLOOD ALT-14 AST-17 AlkPhos-35 TotBili-0.2
___ 02:15PM BLOOD Lipase-38
___ 02:15PM BLOOD cTropnT-<0.01
___ 02:15PM BLOOD Albumin-4.2 Calcium-9.5 Phos-3.5 Mg-1.9
___ 02:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:15AM BLOOD MULTIPLE SCLEROSIS (MS) PROFILE-CANCELLED

___ chest Xray
IMPRESSION: 
No acute cardiopulmonary abnormality.

___ MRI cervical and thoracic spine
IMPRESSION: 
1. No evidence of cord lesions concerning for demyelination or 
multiple
sclerosis.
2. Mild degenerative changes as described above, including a 
central disc
protrusion at T5-T6 with contact of the spinal cord without 
spinal cord signal abnormalities.
 
Brief Hospital Course:
This is a ___ year old right-handed woman with no pertinent PMH 
who presented with ___ weeks of transient symptoms in addition 
to intermittent chest tightness and dyspnea. Has had ~3 weeks of 
episodic paresthesias/numbness on left side (worse in left 
thigh) with tachycardia up to 140 and chest tightness. Saw 
outpatient neurologist and noted to have jerking (worse in right 
hand), which was diagnosed as myoclonus and treated with 
baclofen with improvement. Presented to ___ ED for 
re-evaluation due to persistent chest pressure. Noted to have a 
pontine enhancing lesion on MRI obtained at OSH. Patient's 
description of symptoms and physical exam are not consistent 
with the lesion on MRI. The lesion is too dorsal to involve 
medial lemniscus, and paraphasic errors would be more consistent 
with cortical involvement. Her exam is reassuring as she has no 
weakness (particularly neck flexion/extension) that would 
indicate respiratory dysfunction despite respiratory complaints. 
Has multiple very transient symptoms as well (3 seconds of 
horizontal diplopia once). It is unlikely that she is having an 
MS flare, and there is low concern for myelitis. The etiology of 
her dyspnea, chest heaviness, palpitations and tachycardia are 
likely anxiety, not concerning from a neurologic perspective at 
this time. Chest pain work-up in ED unremarkable and pain 
improved after lorazepam. Her imaging was reviewed with 
neuroradiology, who agreed that the single paramedian pontine 
abnormality was likely a capillary teleangectasia. There was no 
other signal abnormal in any of her head or cervical spine MRI 
scans, although a pineal gland cyst was noted. Her spinal fluid 
was entirely normal. It is possible that this is  a "clinically 
isolated syndrome", but there are no imaging findings to support 
this diagnosis. She will ___ with Dr. ___ as outpatient 
for further work-up. 

Plan/Transitional issues:
- ___ ___ MS ___
- ___ with Dr. ___ as outpatient
- strict return precautions for further symptoms
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO QHS 
2. norgestimate-ethinyl estradiol 0.25-35 mg-mcg oral DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Baclofen 10 mg PO QHS  
2.  norgestimate-ethinyl estradiol 0.25-35 mg-mcg oral DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient sensory changes
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because of sensory changes in 
your arm and leg and tightness in your chest. Prior to your 
presentation here, there had been noted concern that your arm 
and leg symptoms might be due to Multiple Sclerosis. Your spinal 
fluid analysis and imaging did not show a current or prior 
lesions suggestive of Multiple Sclerosis. You were noted to have 
a small blood vessel abnormality in your brainstem as well as a 
cyst on your pineal gland. You will need ___ brain imaging 
for monitoring of your pineal gland cyst in one year. 

We recommend that you continue to ___ with your 
neurologist. We also recommend you ___ with the ___ clinic 
with Dr. ___ further workup, as did not identify a cause 
of your symptoms. This can be done as an outpatient. 

We are not clear what the cause of your chest pain is. However, 
multiple tests and continuous monitoring while you were in the 
hospital did not reveal any cause for concern. 

Please call your outpatient doctor or come to the hospital if 
your symptoms become significantly worse. 

We wish you the best. 

Your ___ care team

 
Followup Instructions:
___